US09382228B2
A mixture of tert-butyl methyl(4-((6-(3-pivaloylureido)pyridin-3-yl)oxy)-[2,3′-bipyridin]-6′-yl)carbamate (0.1 g, 0.192 mmol) and TFA (0.148 mL, 1.921 mmol) in DCM (4 mL) was stirred at RT for 7 h, then concentrated to dryness. The residue was treated with satd. NaHCO3, extracted with EtOAc (2×) and the combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness. The material was treated with 30% EtOAc/Hex, sonicated and the resulting solid collected via filtration to afford N-((5-((6′-(methylamino)-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide (61 mg, 76%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.21 (s, 1H), 10.42 (s, 1H), 8.69 (d, J=2.4 Hz, 1H), 8.44 (d, J=5.7 Hz, 1H), 8.27 (d, J=2.9 Hz, 1H), 8.09 (d, J=9.0 Hz, 1H), 8.02 (dd, J=8.8, 2.5 Hz, 1H), 7.75 (dd, J=9.0, 2.9 Hz, 1H), 7.39 (d, J=2.4 Hz, 1H), 6.83 (q, J=5.0 Hz, 1H), 6.73 (dd, J=5.7, 2.4 Hz, 1H), 6.48 (d, J=8.8 Hz, 1H), 2.80 (d, J=4.7 Hz, 3H), 1.21 (s, 9H); MS (ESI) m/z: 421.2 (M+H+).

reactant | tert-butyl methyl(4-((6-(3-pivaloylureido)pyridin-3-yl)oxy)-[2,3′-bipyridin]-6′-yl)carbamate | 0.192 mmol, 0.1 g | CN(C(OC(C)(C)C)=O)C1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=NC(=CC1)NC(=O)NC(C(C)(C)C)=O | C27H32N6O5
reactant | TFA | 1.921 mmol, 0.148 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-((5-((6′-(methylamino)-[2,3′-bipyridin]-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide | 61 mg, 76% | CNC1=CC=C(C=N1)C1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)NC(C(C)(C)C)=O | C22H24N6O3
